US07531532B2
1-[2-(Azetidin-1-yl)ethyl]-4-benzylpiperazine
A suspension of lithium aluminum hydride (405 mg) in tetrahydrofuran (10 ml) was stirred while cooling in an ice water bath under a nitrogen atmosphere. 1-(Azetidin-1-yl)-2-(4-benzoylpiperazin-1-yl)ethanone (730 mg) and tetrahydrofuran (5 ml×3) were added thereto. The reaction mixture was stirred at 60° C. for 3 hrs. The reaction mixture was then cooled to room temperature. Water (0.40 ml), 5N aqueous sodium hydroxide (0.40 ml) and water (1.2 ml) were added thereto, and the reaction mixture was stirred for 13 hrs. The reaction mixture was passed through Celite to remove the insoluble material. The insoluble material was washed with ethyl acetate (100 ml). The solvent was evaporated to provide a crude product of the titled compound (687 mg) as a pale yellow oil.

reactant | lithium aluminum hydride | 405 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(Azetidin-1-yl)-2-(4-benzoylpiperazin-1-yl)ethanone | 730 mg | N1(CCC1)C(CN1CCN(CC1)C(C1=CC=CC=C1)=O)=O | C16H21N3O2
reactant | Water | 0.40 ml | O | H2O
reactant | sodium hydroxide | 5N, 0.40 ml | [OH-].[Na+]
reactant | water | 1.2 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[2-(Azetidin-1-yl)ethyl]-4-benzylpiperazine | 687 mg | N1(CCC1)CCN1CCN(CC1)CC1=CC=CC=C1 | C16H25N3
